US07776869B2
Step 2: N-(2-morpholinoethyl)-5-(2-(trimethylsilyl)ethynyl)pyridin-2-amine
5-Iodo-N-(2-morpholinoethyl)pyridin-2-amine (0.82 g, 2.46 mmol), TMS acetylene (1.70 mL, 12.3 mmol), and triethylamine (0.69 mL, 4.92 mmol) were dissolved in dioxane (20 mL) and with nitrogen for about 15 min. Tetrakis(triphenylphosphine)palladium (142 mg, 0.12 mmol) and copper (I) iodide (47 mg, 0.25 mmol) were added before the reaction mixture was heated to 80° C. for 3.5 h. The reaction mixture was diluted with 100 mL EtOAc, washed with 50 mL saturated, aqueous NaHCO3, and dried over anhydrous Na2SO4. After purification by chromatography, the title compound was obtained. MS (ES+): 304 (M+H)+.

reactant | 5-Iodo-N-(2-morpholinoethyl)pyridin-2-amine | 2.46 mmol, 0.82 g | IC=1C=CC(=NC1)NCCN1CCOCC1 | C11H16IN3O
reactant | TMS acetylene | 12.3 mmol, 1.70 mL | [Si](C)(C)(C)C#C | C5H10Si
reactant | triethylamine | 4.92 mmol, 0.69 mL | C(C)N(CC)CC | C6H15N
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium | 0.12 mmol, 142 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper (I) iodide | 0.25 mmol, 47 mg | [Cu]I
product | N-(2-morpholinoethyl)-5-(2-(trimethylsilyl)ethynyl)pyridin-2-amine | O1CCN(CC1)CCNC1=NC=C(C=C1)C#C[Si](C)(C)C | C16H25N3OSi
